US07842713B2
4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-N-(5-methylpyridin-2-yl)benzo[b]thiophene-6-carboxamide
Cs2CO3 (0.806 g, 2.47 mmol) was added to a solution of ethyl 4-hydroxybenzo[b]thiophene-6-carboxylate (0.275 g, 1.24 mmol) and 2,4-difluoro-N,N-dimethylbenzamide (0.286 g, 1.55 mmol) in DMF (5 mL). The mixture was stirred at 150° C. for 8 hours and then cooled to room temperature. 2-Amino-5-methyl pyridine (0.228 g, 2.11 mmol) and then HATU (0.7 g, 1.85 mmol) were added. The reaction mixture was stirred at 75° C. for four hours and then filtered. Purification by HPLC gave a solid (57 mg, 10% yield) as expected product. 1H NMR (400 MHz, DMSO-d6) δ 10.84 (s, 1 H) 8.64 (s, 1 H) 8.22 (m, 1 H) 8.07-8.09 (d, 1 H)) 8.01-8.02 (d, 1 H) 7.69 (m, 1 H) 7.65-7.68 (m, 1 H) 7.39-7.43 (m, 2 H) 7.08-7.11 (m, 1 H) 6.93-6.95 (m, 1 H) 2.99 (s, 3 H) 2.87 (m, 3 H) 2.28 (s, 3 H). LCMS for C24H20FN3O3S m/z 450.10 (M+H)+.

reactant | Cs2CO3 | 2.47 mmol, 0.806 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 4-hydroxybenzo[b]thiophene-6-carboxylate | 1.24 mmol, 0.275 g | OC1=CC(=CC=2SC=CC21)C(=O)OCC | C11H10O3S
reactant | 2,4-difluoro-N,N-dimethylbenzamide | 1.55 mmol, 0.286 g | FC1=C(C(=O)N(C)C)C=CC(=C1)F | C9H9F2NO
reactant | 2-Amino-5-methyl pyridine | 2.11 mmol, 0.228 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | HATU | 1.85 mmol, 0.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-N-(5-methylpyridin-2-yl)benzo[b]thiophene-6-carboxamide | CN(C(=O)C1=C(C=C(OC2=CC(=CC=3SC=CC32)C(=O)NC3=NC=C(C=C3)C)C=C1)F)C | C24H20FN3O3S
